US07915427B2
(2S)-4,4-difluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carbox amide (1.66 g) was suspended in acetonitrile (40 mL). To this suspension, N,N,N′,N′-tetramethyl-1,3-propanediamine (133 μL) and triethylamine (2.20 mL) were added. While the mixture was cooled in a salt-ice bath, benzenesulfonyl chloride (1.20 mL) was added dropwise. The reaction mixture was then stirred at the same temperature for 1 hour, followed by the addition of saturated brine (20 mL) and extraction with ethyl acetate (2×80 mL). The ethyl acetate extracts were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To the resulting residue, a mixture of ethyl acetate and methanol (20:1, 30 mL) was added and the resulting crystal was collected by filtration to give (2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrrolidine-2-carboxamide as a white crystal (1.60 g). The filtrate was concentrated under reduced pressure and the residue was purified on a silica gel column (ethyl acetate:methanol=20:1) to give additional (2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrrolidine-2-carboxamide (0.58 g). The total amount of the product was 2.18 g (79% yield).

reactant | (2S)-4,4-difluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carbox amide | 1.66 g | FC1(C[C@H](N(C1)C(CO)=O)C(=O)N)F | C7H10F2N2O3
reactant | N,N,N′,N′-tetramethyl-1,3-propanediamine | 133 μL | CN(CCCN(C)C)C | C7H18N2
reactant | triethylamine | 2.20 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.20 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrrolidine-2-carboxamide | 1.60 g | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)N | C13H14F2N2O5S
